US07153968B2
Step 3: 3-{3′-[6-(1-Methanesulfonyl-1-methyl-ethyl)-quinolin-8-yl]-biphenyl-4-yl}-acrylic acid 4-nitro-phenyl ester
Prepared according to the procedure described in EXAMPLE 11, Step 3 but using 3-(3′-[6-(1-methanesulfonyl-1-methyl-ethyl)-quinolin-8-yl]-biphenyl-4-yl)-acrylic acid and 4-nitro-phenol as starting materials. Stirring in Et2O afforded the title compound after filtration.

reactant | 3-(3′-[6-(1-methanesulfonyl-1-methyl-ethyl)-quinolin-8-yl]-biphenyl-4-yl)-acrylic acid | CS(=O)(=O)C(C)(C)C=1C=C2C=CC=NC2=C(C1)C=1C=C(C=CC1)C1=CC=C(C=C1)C=CC(=O)O | C28H25NO4S
reactant | 4-nitro-phenol | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
solvent | Et2O | CCOCC | C4H10O
product | 3-{3′-[6-(1-Methanesulfonyl-1-methyl-ethyl)-quinolin-8-yl]-biphenyl-4-yl}-acrylic acid 4-nitro-phenyl ester | [N+](=O)([O-])C1=CC=C(C=C1)OC(C=CC1=CC=C(C=C1)C1=CC(=CC=C1)C=1C=C(C=C2C=CC=NC12)C(C)(C)S(=O)(=O)C)=O | C34H28N2O6S
